US08877968B2
To 80 mg (0.24 mmol) of 2-{3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)-propanoic acid (cf. preparation 2-3) dissolved in 2.75 mL of dichloromethane and 1.25 mL of dimethylformamide are added 0.08 mL (0.48 mmol) of diisopropylethylamine, 84 mg (0.26 mmol) of TBTU and 88 mg (0.26 mmol) of 3-phenylazetidin-3-yl butyrate trifluoroacetate. After 2 hours, the solution is washed with 1N sodium hydroxide solution and the organic products are extracted with dichloromethane. The organic phase is dried over magnesium sulfate, filtered and concentrated. The crude product obtained is chromatographed by preparative TLC (eluent: 9/1 dichloromethane/methanol). 5.4 mg of 1-[2-{3-[2-(1H-imidazol-4-yl)ethyl]-ureido}-3-(4-methoxyphenyl)propionyl]-3-phenylazetidin-3-yl butyrate are obtained in a yield of 2%.

reactant | 2-{3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)-propanoic acid | 0.24 mmol, 80 mg | N1C=NC(=C1)CCNC(NC(C(=O)O)CC1=CC=C(C=C1)OC)=O | C16H20N4O4
reactant | diisopropylethylamine | 0.48 mmol, 0.08 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TBTU | 0.26 mmol, 84 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-phenylazetidin-3-yl butyrate trifluoroacetate | 0.26 mmol, 88 mg | FC(C(=O)O)(F)F.C(CCC)(=O)OC1(CNC1)C1=CC=CC=C1
solvent | dichloromethane | 2.75 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 1.25 mL | CN(C=O)C | C3H7NO
product | 1-[2-{3-[2-(1H-imidazol-4-yl)ethyl]-ureido}-3-(4-methoxyphenyl)propionyl]-3-phenylazetidin-3-yl butyrate | 5.4 mg, yield of 2% | C(CCC)(=O)OC1(CN(C1)C(C(CC1=CC=C(C=C1)OC)NC(=O)NCCC=1N=CNC1)=O)C1=CC=CC=C1 | C29H35N5O5
